US07238714B2
Step 1. Methyl 5-chloro-2-(3-fluorobenzyl)nicotinate
The title compound was prepared according to the procedure described in step 2 of Example 58 from methyl 2,5-dichloronicotinate and 3-fluorobenzylzinc chloride: 1H-NMR (CDCl3) δ 8.65 (1H, d, J=2.4 Hz), 8.19 (1H, d, J=2.6 Hz), 7.26–6.84 (4H, m), 4.54 (2H, s), 3.89 (3H, s).

reactant | methyl 2,5-dichloronicotinate | ClC1=C(C(=O)OC)C=C(C=N1)Cl | C7H5Cl2NO2
reactant | 3-fluorobenzylzinc chloride | [Cl-].FC=1C=C(C[Zn+])C=CC1
product | Methyl 5-chloro-2-(3-fluorobenzyl)nicotinate | ClC=1C=NC(=C(C(=O)OC)C1)CC1=CC(=CC=C1)F | C14H11ClFNO2
